US06017675
α-(3-Trifluoromethylphenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide
As described under 1.2., 4.1 g (0.02 mol) of a-hydroxyimino-3,4-dimethoxybenzyl cyanide are reacted with 5.4 g (0.022 mol) of 3-trifluoromethylphenylsulfonic acid chloride in the presence of triethylamine. After recrystallisation of the crude product from ethyl acetate/-hexane, 6.6 g (80%) of α-(3-trifluoromethyl-phenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide are obtained in the form of yellowish crystals having a melting point of 129-130° C. The 1H-NMR spectrum of the compound shows that it is a pure stereoisomer. The UV spectrum (acetonitrile) of the substance shows a broad absorption band with a maximum at 351 nm (ε=11700) that extends to 430 nm. Elemental analysis: C17H13F3N2O5S (414.36)

reactant | a-hydroxyimino-3,4-dimethoxybenzyl cyanide | 0.02 mol, 4.1 g | ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C10H10N2O3
reactant | 3-trifluoromethylphenylsulfonic acid chloride | 0.022 mol, 5.4 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | α-(3-Trifluoromethylphenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide | FC(C=1C=C(C=CC1)S(=O)(=O)ON=C(C1=CC(=C(C=C1)OC)OC)C#N)(F)F | C17H13F3N2O5S
